US06589954B1
Synthesis of cis-2-Methyl-4-benzylpiperidin-1-yl-indole-5-carboxamide
To a solution of 1-BOC-2-methyl-4-benzylpiperidine (0.29 g, 1.0 mMol) in 5 mL of dichloromethane was added trifluoroacetic acid (TFA) (0.5 mL). After stirring at rt for 10 h the reaction mixture was evaporated in vacuo and azeotroped twice with dichloromethane and twice with hexane. The residue was dissolved in 5 mL of dichloromethane and diisopropylethylamine (1.6 mL, 10 mMol) was added. In a separate flask a mixture of 5-indolecarboxylic acid (0.19 g, 1.2 mMol) and EDAC (0.23 g, 1.2 mMol) was dissolved in 15 mL of dichloromethane and stirred at rt for 5 min. To this reaction mixture was added the first solution, and the resulting mixture stirred at rt for 20 h. The reaction mixture was poured into water and extracted with ethyl acetate (2×50 mL). The combined organic extract was washed with water and brine. The extract was dried over Na2SO4 and evaporated. The residue was chromatographed on a column of silica gel with 1% MeOH-dichloromethane. Evaporation of the desired fractions gave 0.18 g (54%) of the product as an oil.

reactant | 1-BOC-2-methyl-4-benzylpiperidine | 1.0 mMol, 0.29 g | C(=O)(OC(C)(C)C)N1C(CC(CC1)CC1=CC=CC=C1)C | C18H27NO2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropylethylamine | 10 mMol, 1.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-indolecarboxylic acid | 1.2 mMol, 0.19 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | EDAC | 1.2 mMol, 0.23 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | cis-2-Methyl-4-benzylpiperidin-1-yl-indole-5-carboxamide | 0.18 g, 54% | C[C@@H]1N(CC[C@@H](C1)CC1=CC=CC=C1)C=1NC2=CC=C(C=C2C1)C(=O)N | C22H25N3O
